US07118787B2
6-Bromo-2-(4-dodecyloxyphenyl)benzothiazole:
Bromine was added dropwise to a solution of 2-(4-dodecyloxy-phenyl)benzothiazole (20 g, 0.059 mol) and acetic acid (1,000 cm3). The reaction mixture was then heated for a further 6 h. The cooled reaction mixture was then added to aqueous sodium metabisulphite solution (1,000 cm3). The product was extracted using diethyl ether (3×100 cm3). The combined organic layers are washed with concentrated sodium carbonate solution (2×100 cm3) and then with water (1×100 cm3), dried (MgSO4), filtered and then evaporated down under partially reduced pressure The crude product was purified using column chromatography, using a 50:50 mixture of dichloromethane/hexane an eluent to yield 2.7 g (9.6%) of the desired product.

reactant | Bromine | BrBr | Br2
reactant | 2-(4-dodecyloxy-phenyl)benzothiazole | 0.059 mol, 20 g | C(CCCCCCCCCCC)OC1=CC=C(C=C1)C=1SC2=C(N1)C=CC=C2 | C25H33NOS
reactant | sodium metabisulphite | 1,000 cm3 | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 1,000 cm3 | C(C)(=O)O | C2H4O2
product | 6-Bromo-2-(4-dodecyloxyphenyl)benzothiazole | 2.7 g, 9.6% | BrC1=CC2=C(N=C(S2)C2=CC=C(C=C2)OCCCCCCCCCCCC)C=C1 | C25H32BrNOS
